US08377923B2
Ammonium chloride (217 mg) was added to a mixture of 5-chloro-2-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy}benzonitrile (330 mg), sodium azide (264 mg) and DMF (10 ml), followed by stirring at 100° C. for 16 hours. The reaction solution was added to a mixture of chloroform and water, followed by separation operation, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1) and the resulting product was washed with diisopropylether to obtain, as a light brown solid, 5-{5-chloro-2-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy phenyl}-1H-tetrazole (127 mg).

reactant | Ammonium chloride | 217 mg | [Cl-].[NH4+]
reactant | 5-chloro-2-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy}benzonitrile | 330 mg | ClC=1C=CC(=C(C#N)C1)O[C@@H](C)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C19H14ClF3N4O
reactant | sodium azide | 264 mg | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2-[(1S)-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy phenyl}-1H-tetrazole | 127 mg | ClC1=NNN(N1)C1=C(C=CC=C1)O[C@@H](C)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C19H17ClF3N7O
